US08044052B2
Step 5: Preparation of 2-(3-piperidin-4-ylidenemethyl-phenoxy)-5-trifluoromethyl-pyridine, hydrochloride
To a mixture of 4-[3-(5-trifluoromethyl-pyridin-2-yloxy)-benzylidene]-piperidine-1-carboxylic acid tert-butyl ester (312 g, 0.718 mol) in ethyl acetate (2.8 L) at 0° C. to −5° C. was added streamwise over a 20 min period, 4.0 M hydrogen chloride in dioxane (800 mL, 3.2 mol). No significant temperature change was noted. The resulting suspension was stirred at temperatures reaching 22° C. over the next 17 h. The suspension was filtered. The solid was washed with EtOAc (500 mL) and pressed as dry as possible under suction. The damp solid was dried in vacuo at 33° C. for 7 h to afford 225 g (84%) of product.

reactant | 4-[3-(5-trifluoromethyl-pyridin-2-yloxy)-benzylidene]-piperidine-1-carboxylic acid tert-butyl ester | 0.718 mol, 312 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H25F3N2O3
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 3.2 mol, 800 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 2.8 L | C(C)(=O)OCC | C4H8O2
product | 2-(3-piperidin-4-ylidenemethyl-phenoxy)-5-trifluoromethyl-pyridine, hydrochloride | 225 g, 84% | Cl.N1CCC(CC1)=CC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1 | InChI=1S/C18H17F3N2O.ClH/c19-18(20,21)15-4-5-17(23-12-15)24-16-3-1-2-14(11-16)10-13-6-8-22-9-7-13;/h1-5,10-12,22H,6-9H2;1H
